### PR TITLE
chore(RepresentationTheory/Coinduced): tech debt

### PR DESCRIPTION
**Pull request by JX-Mo**
Remove five `backward.isDefEq.respectTransparency.types` and add a CoeFun instance for `coindV` to justify the existing `coe`-named lemmas.

### CODE REVIEW

**Comment by JX-Mo** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/ff760908109d2e0997503f7aabc217b1c3a533d4?reference=f0ab343610f9131a303cb9f175406d4db2285fd8) for ff760908109d2e0997503f7aabc217b1c3a533d4 against f0ab343610f9131a303cb9f175406d4db2285fd8 are in. No significant results found. @JX-Mo

- 🟥 `build//instructions`: **+18.4G** (**+0.01%**)

**Small changes (2✅)**

- ✅ `build/module/Mathlib.Tactic.Convert//instructions`: **-95.5M** (**-1.01%**)
- ✅ `build/module/Mathlib.Tactic.GRewrite//instructions`: **-27.1M** (**-1.36%**)

**Comment by JX-Mo** [comment]
easy

File: Mathlib/RepresentationTheory/Coinduced.lean
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Coinduced.lean:301]: Should we fix this? Or leave it for another PR

Comment (jjdishere) [reply Mathlib/RepresentationTheory/Coinduced.lean]: Let's leave this to a new PR.

File: Mathlib/RepresentationTheory/Coinduced.lean [hunk 1]
```diff
@@ -78,14 +77,17 @@ to the function sending `h₁` to `f (h₁ * h)`.
 
 See also `Rep.coind` and `Representation.coind'` for variants involving the category `Rep k G`.
 -/
-@[simps]
+@[simps -isSimp]
 def coind : Representation k H (coindV φ ρ) where
-  toFun h := (LinearMap.funLeft _ _ (· * h)).restrict fun x hx g h₁ => by
-    simpa [mul_assoc] using hx g (h₁ * h)
+  toFun h := (LinearMap.funLeft _ _ (· * h)).restrict fun x hx => (mem_coindV φ ρ _).mpr <| by
+      simp [(mem_coindV φ ρ _).mp hx, mul_assoc]
```
Comment (jjdishere) [inline Mathlib/RepresentationTheory/Coinduced.lean]:
```suggestion
    simp [(mem_coindV φ ρ _).mp hx, mul_assoc]
```

File: Mathlib/RepresentationTheory/Coinduced.lean [hunk 2]
```diff
@@ -78,14 +77,17 @@ to the function sending `h₁` to `f (h₁ * h)`.
...
   map_one' := by ext; simp
   map_mul' _ _ := by ext; simp [mul_assoc]
 
-set_option backward.isDefEq.respectTransparency.types false in
+@[simp]
+lemma coind_apply_apply (h x : H) (f : coindV φ ρ) :
```
Comment (jjdishere) [inline Mathlib/RepresentationTheory/Coinduced.lean]:
```suggestion
lemma coind_val (h x : H) (f : coindV φ ρ) :
```

**Review by jjdishere — APPROVED** [review]

**Comment by jjdishere** [comment]
Thanks for doing this!

maintainer delegate

File: Mathlib/RepresentationTheory/Coinduced.lean (hunk 2 above)
Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Coinduced.lean]: Here you can find `coind_apply` in the @[simps]
```
@[simps -isSimp]
def coind : Representation k H (coindV φ ρ) where
```
I think `coind_apply_apply` is appropiate

Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Coinduced.lean]: Full expension should be coind_apply_apply_coe_apply

File: Mathlib/RepresentationTheory/Coinduced.lean
Comment (Whysoserioushah) [reply Mathlib/RepresentationTheory/Coinduced.lean:307]: I think another PR would be good!

File: Mathlib/RepresentationTheory/Coinduced.lean (hunk 2 above)
Comment (jjdishere) [reply Mathlib/RepresentationTheory/Coinduced.lean]: I don't think we should auto-insert several `apply` into declaration names when the statement contains other "nameable" declarations.

According to coercion [section](https://leanprover-community.github.io/contribute/naming.html#coercions) of naming conventions The name should include `val`, but not `coe`. Because `Subtype.val` appears in the statement, right? 
So I think `val_coind_apply` would be a name following the convention, what do you think?

Comment (jjdishere) [reply Mathlib/RepresentationTheory/Coinduced.lean]: My previous suggetsion `coind_val` is wrong indeed. `val` should go before `coind` if one expand the dot notation.

Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Coinduced.lean]: Please also consider this
```
lemma coindMap_coe_apply (f : σ.IntertwiningMap ρ) (x : coindV φ σ) :
    (coindMap φ f) x = (f.toLinearMap.compLeft H) x := rfl

@[simp]
lemma coindMap_coe_apply_apply (f : σ.IntertwiningMap ρ) (x : coindV φ σ) (h : H) :
    ((coindMap φ f) x).1 h = f (x.1 h) := rfl
```

Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Coinduced.lean]: We don't even have the coe instance.

Comment (jjdishere) [reply Mathlib/RepresentationTheory/Coinduced.lean]: Sorry, I still don't see the reason why we do not include `val` in the name.

Comment (jjdishere) [reply Mathlib/RepresentationTheory/Coinduced.lean]: > We don't even have the coe instance.

Indeed, so I agree that we should not include `coe` in the name.

Comment (jjdishere) [reply Mathlib/RepresentationTheory/Coinduced.lean]: I would argue that `coindMap_coe_apply_apply` does not follow the naming convention strictly.

Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Coinduced.lean]: Ok I will address them

Comment (jjdishere) [reply Mathlib/RepresentationTheory/Coinduced.lean]: Thanks!

**Review by jjdishere — APPROVED** [review]

**Comment by jjdishere** [comment]
Thanks again!

maintainer merge

**Comment by jjdishere** [comment]
I would like to also hear the opinion from @whysoserioushah, since he is an expert of representation theory part of Mathlib.

File: Mathlib/RepresentationTheory/Coinduced.lean (hunk 2 above)
Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Coinduced.lean]: I am still confused about the `dot notation` naming convention. e.g. foo.surjective is usually named as foo_surjective.

**Comment by jcommelin** [comment]
bors d=whysoserioushah

File: Mathlib/RepresentationTheory/Coinduced.lean [hunk 3]
```diff
@@ -65,11 +65,12 @@ def coindV : Submodule k (H → A) where
   zero_mem' := by simp
   smul_mem' _ _ _ := by simp_all
 
+instance : CoeFun (coindV φ σ) (fun _ => H → A) := ⟨Subtype.val⟩
+
 @[simp]
 lemma mem_coindV (f : H → A) : f ∈ coindV φ σ ↔ ∀ (g : G) (h : H), f (φ g * h) = σ g (f h) :=
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Coinduced.lean]:
```suggestion
lemma mem_coindV {f : H → A} : f ∈ coindV φ σ ↔ ∀ (g : G) (h : H), f (φ g * h) = σ g (f h) :=
```
use implicit argument for this iff lemma
